US05696132
7-(1,4-Diazabicyclo[3.2.1]octan-4-yl)-6-fluoro-1-[2-(S)-fluoro-1-(R)-cyclopropyl]-5-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid
To 6 ml of dried N,N-dimethylformamide were added 200 mg of 6,7-difluoro-1-[2-(S)-fluoro-1-(R)-cyclopropyl]-5-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylic acid, 372 mg of 1,4-diazabicyclo[3.2.1]octane dihydrochloride, and 2 ml of triethylamine, and the mixture was stirred at 100° C. for 1 hour. After allowing to cool, the reaction mixture was concentrated under reduced pressure, and the residue was dissolved in a 1N sodium hydroxide aqueous solution under cooling with ice. The solution was neutralized with 1N hydrochloric acid and extracted with chloroform. The extract was dried over anhydrous sodium sulfate, and the solvent was removed under reduced pressure. The resulting crude crystals were recrystallized from a mixed solvent of ethanol and 28% aqueous ammonia, and the crystals were collected by filtration, washed with diethyl ether, and dried at 60° C. under reduced pressure overnight to yield 131 mg of the titled compound as a yellow powder.

reactant | N,N-dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
reactant | 6,7-difluoro-1-[2-(S)-fluoro-1-(R)-cyclopropyl]-5-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 200 mg | FC=1C(=C2C(C(=CN(C2=CC1F)[C@H]1[C@H](C1)F)C(=O)O)=O)C | C14H10F3NO3
reactant | 1,4-diazabicyclo[3.2.1]octane dihydrochloride | 372 mg | Cl.Cl.N12CCNC(CC1)C2
solvent | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
product | 7-(1,4-Diazabicyclo[3.2.1]octan-4-yl)-6-fluoro-1-[2-(S)-fluoro-1-(R)-cyclopropyl]-5-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid | 131 mg | N12CCN(C(CC1)C2)C2=C(C(=C1C(C(=CN(C1=C2)[C@H]2[C@H](C2)F)C(=O)O)=O)C)F | C20H21F2N3O3
